### ISSUE TITLE
dsimp does not reduce structure projections in coercions

### ISSUE THREAD

**Issue by eric-wieser** [leanprover/lean4#3395]
### Prerequisites

* [x] Put an X between the brackets on this line if you have done all of the following:
    * Check that your issue is not already [filed](https://github.com/leanprover/lean4/issues).
    * Reduce the issue to a minimal, self-contained, reproducible test case. Avoid dependencies to mathlib4 or std4.

### Description

In some cases, the `dsimp` tactic is unable to reduce structure projections

### Context

[Zulip thread](https://leanprover.zulipchat.com/#narrow/stream/270676-lean4/topic/dsimp.20cannot.20reduce.20structure.20projection/near/422208816)

### Steps to Reproduce

1. Run the following:
    ```lean
    instance instMonadList : Monad List where
      pure := ([·])
      bind := List.bind

    example {A : Type} (a : A) (l : List {a : A // True}) : a ∈ (l : List A) ↔ ⟨a, trivial⟩ ∈ l := by
      -- nasty unfolding, this probably shouldn't be necessary
      unfold Lean.Internal.coeM instCoeT instCoeHTCT_1 instCoeHTC_1 instCoeOTC instCoeOTC_2
      unfold subtypeCoe CoeOTC.coe CoeT.coe CoeHTCT.coe CoeHTC.coe CoeOut.coe
      -- this doesn't make progress
      dsimp only
      -- this does
      simp only

      sorry
    ```
2. Inspect the goal before the `dsimp` only, which is the following monstrosity:
    ```lean
        A: Type
    a: A
    l: List { a // True }
    ⊢ (a ∈ do
        let a ← l
        pure
            {
                coe :=
                  {
                        coe := fun a =>
                          {
                                coe := fun a =>
                                  { coe := fun a => { coe := fun a => a }.1 ({ coe := fun v => v.val }.1 a) }.1 a }.1
                            a }.1
                    a }.1) ↔
      { val := a, property := trivial } ∈ l
      ```
3. Inspect the goal after the `dsimp only`

**Expected behavior:** The goal should be:
```lean
A: Type
a: A
l: List { a // True }
⊢ (a ∈ do
    let a ← l
    pure a.val) ↔
  { val := a, property := trivial } ∈ l
```

**Actual behavior:** Terms like `({ coe := fun v => v.val }.1` have not been reduced and the goal is unchanged

### Versions

4.6.0-rc1

### Additional Information

[Additional information, configuration or data that might be necessary to reproduce the issue]

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by leodemoura** [comment]
mwe for this issue
```
structure S where
  f : Nat → Nat 

example (h : g 1 = x) : { f := g : S }.f 1 = x := by
  unfold S.f
  dsimp -- `dsimp` made no progress
  simp -- `simp` works
  assumption
```
